US07745475B2
Methyl 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-[4-(methylsulfonyl)phenoxy]benzoate
(2R)-1-{[tert-Butyl(dimethyl)silyl]oxy}propan-2-ol (2.18 g, 11.47 mmol) was added to a solution of methyl 3-hydroxy-5-[4-(methylsulfonyl)phenoxy]benzoate (2.76 g, 8.57 mmol) in dry DCM (100 mL) followed by addition of polymer-supported triphenylphosphine (3.0 mmol/g (Fluka), 8.57 g, 25.71 mmol) and DIAD (3.37 mL, 17.1 mmol) at RT. The reaction was stirred for 3 h before filtration through diatomaceous earth and evaporation. Purification by column chromatography, eluting with 1:4 to 1:2 ethyl acetate:hexanes, afforded the title compound as a colourless oil (3.70 g, 87%).

reactant | (2R)-1-{[tert-Butyl(dimethyl)silyl]oxy}propan-2-ol | 11.47 mmol, 2.18 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](C)O | C9H22O2Si
reactant | methyl 3-hydroxy-5-[4-(methylsulfonyl)phenoxy]benzoate | 8.57 mmol, 2.76 g | OC=1C=C(C(=O)OC)C=C(C1)OC1=CC=C(C=C1)S(=O)(=O)C | C15H14O6S
reactant | triphenylphosphine | 25.71 mmol, 8.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 17.1 mmol, 3.37 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-[4-(methylsulfonyl)phenoxy]benzoate | 3.70 g, 87% | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)OC)C=C(C1)OC1=CC=C(C=C1)S(=O)(=O)C)C | C24H34O7SSi
